US08058045B2
Methyl 6-chloro-4-(8-methyl-8-azabicyclo[3.2.1]octan-3-ylamino)nicotinate (26 mg, 0.084 mmol, prepared as described in Synthesis 62 and 63), 5-methoxypyrazin-2-amine (16 mg, 0.127 mmol), cesium carbonate (55 mg, 0.169 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (3.9 mg, 7 mol %), and tris(dibenzylideneacetone)dipalladium chloroform complex (3.5 mg, 3.5 mol %) were added to a vial which was flushed with nitrogen and sealed. Anhydrous toluene (0.3 mL) and DMF (0.1 mL) were added and nitrogen was bubbled through the stirred solution for 10 minutes. The mixture was heated by microwave irradiation at 130° C. for 30 minutes. The cooled solution was diluted with methanol and adsorbed onto an Isolute SCX-II column. The column was washed with methanol, then with 2M ammonia in methanol. The basic fractions concentrated. Preparative TLC, eluting with ethyl acetate-methanol-concentrated ammonia 10:1:0.2, gave methyl 6-(5-methoxypyrazin-2-ylamino)-4-(8-methyl-8-azabicyclo[3.2.1]octan-3-ylamino)nicotinate (5 mg, 15%) as an oil.

reactant | Methyl 6-chloro-4-(8-methyl-8-azabicyclo[3.2.1]octan-3-ylamino)nicotinate | 0.084 mmol, 26 mg | ClC1=NC=C(C(=O)OC)C(=C1)NC1CC2CCC(C1)N2C | C15H20ClN3O2
reactant | 5-methoxypyrazin-2-amine | 0.127 mmol, 16 mg | COC=1N=CC(=NC1)N | C5H7N3O
reactant | cesium carbonate | 0.169 mmol, 55 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 3.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | methyl 6-(5-methoxypyrazin-2-ylamino)-4-(8-methyl-8-azabicyclo[3.2.1]octan-3-ylamino)nicotinate | 5 mg, 15% | COC=1N=CC(=NC1)NC1=NC=C(C(=O)OC)C(=C1)NC1CC2CCC(C1)N2C | C20H26N6O3
